US08242104B2
To a solution of 2-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulen-8-yloxy]-2-methyl-propionic acid ethyl ester (103 mg, 0.24 mmol) in methanol (5 mL) was added water (0.5 mL) and lithium hydroxide monohydrate (19 mg, 0.48 mmol). The reaction mixture was heated at 50° C. for 16 h then HCl (1N, aq.) added until pH˜4. The reaction mixture was concentrated in vacuo to give 2-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulen-8-yloxy]-2-methyl-propionic acid as a yellow solid. LCMS: RT=2.88 min, [M+H]+=399

reactant | 2-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulen-8-yloxy]-2-methyl-propionic acid ethyl ester | 0.24 mmol, 103 mg | C(C)OC(C(C)(C)OC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=N1)=O | C21H26N6O4
reactant | water | 0.5 mL | O | H2O
reactant | lithium hydroxide monohydrate | 0.48 mmol, 19 mg | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 2-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulen-8-yloxy]-2-methyl-propionic acid | C(C)(C)N1N=CN=C1C1=CN2CCOC3=C(C2=N1)C=NC(=C3)OC(C(=O)O)(C)C | C19H22N6O4
